US05246948
Synthesis of 4-[(4-nitrophthalimido)methylthio]pyridine
N-Chloromethyl-4-nitrophthalimide [2.89 g (12 mmol)] was added under ice-cooling with stirring to a suspension of 1.11 g (10 mmol) of 4-mercaptopyridine and 1.4 ml (12 mmol) of triethylamine in 50 ml of ethanol. The mixture was stirred at room temperature for 16 hours. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 1.99 g of the desired compound (yield: 63.1%, yellow crystals).

reactant | N-Chloromethyl-4-nitrophthalimide | 12 mmol, 2.89 g | ClCN1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C9H5ClN2O4
reactant | 4-mercaptopyridine | 10 mmol, 1.11 g | SC1=CC=NC=C1 | C5H5NS
reactant | triethylamine | 12 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[(4-nitrophthalimido)methylthio]pyridine | 1.99 g, yield: 63.1% | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)CSC2=CC=NC=C2)=CC1 | C14H9N3O4S
